US04740602
A mixture of 38.7 g of 2-[4-(5-carbamoyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine, 27.1 g of NaOH, 525 ml of water and 450 ml of diethylene glycol monoethyl ether is boiled, with stirring, for 16 hours. The mixture is cooled, the usual working up followed by acidification is carried out, and 2-[4-(5-carboxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine is obtained.

reactant | 2-[4-(5-carbamoyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | 38.7 g | C(N)(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C24H25N3O2
reactant | NaOH | 27.1 g | [OH-].[Na+]
reactant | diethylene glycol monoethyl ether | 450 ml | C(C)OCCOCCO | C6H14O3
solvent | water | 525 ml | O | H2O
product | 2-[4-(5-carboxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | C(=O)(O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C24H24N2O3
